US07192982B2
(2S)-3-{4-[3-(4-benzoyl-phenoxy)-propoxy]-3-chloro-phenyl}-2-ethoxy-propionic acid
The title compound was prepared from (S)-3-{4-[3-(4-benzoyl-phenoxy)-propoxy]-3-chloro-phenyl}-2-ethoxy-propionic acid methyl ester by the standard hydrolysis procedure C (LiOH). 1H-NMR (200.15 MHz, CDCl3): δ 7.82–7.72 (m, 4H), 7.56–7.43 (m, 3H), 7.07 (dd, 1H, J=8.8, 2.0), 6.97 (d, 2H, J=8.9), 6.86 (d, 2H, J=8.3), 4.31 (t, 2H, J=6.0), 4.21 (t, 2H, J=6.0), 4.10–4.02 (m, 1H), 3.66–3.44 (m, 2H), 3.10–2.87 (m, 2H), 2.33 (qn, 2H, J=6.2), 1.20 (t, 3H, J=7.0).

reactant | (S)-3-{4-[3-(4-benzoyl-phenoxy)-propoxy]-3-chloro-phenyl}-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=CC(=C(C=C1)OCCCOC1=CC=C(C=C1)C(C1=CC=CC=C1)=O)Cl)OCC)=O | C28H29ClO6
reactant | LiOH | [Li+].[OH-]
product | (2S)-3-{4-[3-(4-benzoyl-phenoxy)-propoxy]-3-chloro-phenyl}-2-ethoxy-propionic acid | C(C1=CC=CC=C1)(=O)C1=CC=C(OCCCOC2=C(C=C(C=C2)C[C@@H](C(=O)O)OCC)Cl)C=C1 | C27H27ClO6
